Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
lower gi bleed
 
Major Surgical or Invasive Procedure:
___ Colonoscopy
 
History of Present Illness:
Dr. ___ is a ___ year old gentleman with a history of CTEPH on 
Coumadin, history of polyps who presents with BRBPR x3 this 
morning, referred to the ED by
Dr. ___. 

He underwent removal of a large 3-4cm polyp in the proximal 
ascending colon on ___ with EMR and 4 endoclips. He was 
instructed to hold Coumadin for a total of 5 days. This morning 
he called Dr. ___ with hematochezia x3 and was referred 
tothe ED. 

In the ED, initial vitals were: 98.9 80 156/95 16 100% RA
Labs were notable for: WBC 8.4 Hgb 14.3 Plt 213. Chemistry with 
K
5.3 (moderately hemolyzed) and otherwise WNL. INR 1.4.

In the ED patient reportedly experienced vasovagal episode- 
found
to be grey and lethargic, sitting on the toilet. Large amount of
bright red blood with clots noted in the toilet bowl. He was
placed back in bed, reverse trendelenburg, ___ PIV established,
IVF started. Repeat H/H at that time was 11.6/34.5. He was
evaluated by GI at this time and taken to colonoscopy 
emergently,
however pt did not have another BRBPR in the colonoscopy so
deferred x1 day in order to obtain prep for better utilization 
of
colonoscopy

On the floor,  pt has lower abd cramping with dark blood in BM. 

 
Past Medical History:
CTE pulmonary hypertension on long term coumadin
Polyps  
Asthma  

PSH
s/p appendectomy
 
Social History:
___
Family History:
Mother with T2DM and PE
Father with CAD/afib age ___
 
Physical Exam:
ADMISSION PHYSICAL EXAM
Vital Signs:  T 98.9, HR 80-92, RR 16, BP 156/95, O2 sat 100% RA
General: Alert, oriented, no acute distress  
HEENT: Sclerae anicteric, MMM, oropharynx clear, EOMI, PERRL,
neck supple, JVP not elevated, no LAD  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs,
gallops  
Lungs: Clear to auscultation bilaterally, no wheezes, rales,
rhonchi  
Abdomen: Soft, non-tender, non-distended, bowel sounds present,
no organomegaly, no rebound or guarding  
GU: No foley  
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or
edema  
Neuro: CNII-XII intact, ___ strength upper/lower extremities,
grossly normal sensation, 2+ reflexes bilaterally, gait 
deferred.

DISCHARGE PHYSICAL EXAM:
Vitals: 98. BP: 124/74 HR:78 18 95 RA 
General: Alert, oriented, no acute distress  
HEENT: Sclerae anicteric, MMM, oropharynx clear, EOMI, PERRL, 
neck supple, JVP not elevated, no LAD  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
Abdomen: Soft, non-tender, non-distended, bowel sounds present,
no HSM 
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or
edema  
Neuro: CNII-XII intact, gait normal
Psych: pleasant and appropriate
 
Pertinent Results:
___
WBC 8.4, Hgb 14.3-->11.6, Hct 43.1-->34.5, Plt 213
INR 1.4
Na 136, Cl 103, K 5.3, HCOP3 24, BUN 14, Cr 1.2, Gluc 102
hemolyzed

Labs on discharge:
___ 09:24AM BLOOD WBC-5.5 RBC-3.60* Hgb-11.1* Hct-33.7* 
MCV-94 MCH-30.8 MCHC-32.9 RDW-13.2 RDWSD-45.1 Plt ___
___ 09:24AM BLOOD Glucose-128* UreaN-5* Creat-1.3* Na-143 
K-3.9 Cl-108 HCO3-25 AnGap-14

Colonoscopy: ___
The site of the previous EMR was seen in the proximal ascending 
colon.
•The previously placed 4 hemoclips were seen.
•There was no evidence of bleeding.
•An extra hemoclip (Resolution clip) was placed.
•Otherwise normal colonoscopy to cecum

 
Brief Hospital Course:
Mr. ___ is a ___ year old gentleman with a history of CTEPH on 
Coumadin, history of colon polyps who presents with 4 episodes 
of hematochezia after undergoing
outpatient polyp removal on the previous day.

# Gastrointestinal Post- Polypectomy bleeding
# Acute blood loss anemia
The patient presented with BRBPR the day of his colonoscopy. In 
the ED he had a vasovagal/syncopal episode. He was seen by GI 
and underwent a colonoscopy which showed resolution of bleeding. 
An additional clip was placed at the polypectomy site. The 
patient's H/H was checked and was lower than his baseline but 
remained stable after admission. Orthostatics were checked on 
the day of discharge and were negative. The patient was 
tolerating a regular diet without hematochezia prior to 
discharge.

# CTEPH: Coumadin was held and should be resumed on ___ per 
gastroenterology. The patient will discuss with his cardiology.  
Tadalafil was held during hospitalization and resumed on 
discharge 

# Hyperlipidemia: Continued home statin

Transitional issues:
- Coumadin to be restarted on ___
- Please check CBC at PCP follow up
- Patient advised to call Dr. ___ for results.
- Will need repeat Colonoscopy in 6 months

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Warfarin 3.5 mg PO DAILY16 
2. Atorvastatin 5 mg PO QPM 
3. Albuterol Inhaler 2 PUFF IH Q4H:PRN shortness of breath 
4. Fluticasone Propionate 110mcg 2 PUFF IH BID 
5. tadalafil (antihypertensive) 20 mg oral DAILY 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Bleeding post polypectomy
Anemia
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Dr. ___,

___ was a pleasure taking care of you during your admission to 
___. You were admitted with bleeding after your polypectomy. 
You had a repeat colonoscopy which showed the bleeding had 
resolved. An extra clip was placed. Your blood counts were 
checked and are lower than your baseline but are stable. You 
should continue to hold your Warfarin until ___. Call Dr. 
___ at ___ in one week to review biopsy findings

We wish you the best,
Your ___ care team
 
Followup Instructions:
___